US04452739
nitrosating the 3,3,7,7-tetranitro-1-nitrosoperhydro-1,5-diazocine in from about 55 to about 70 percent nitric acid to form 3,3,7,7-tetranitro-1,5-dinitrosoperhydro-1,5-diazocine product; and

reactant | 3,3,7,7-tetranitro-1-nitrosoperhydro-1,5-diazocine | [N+](=O)([O-])C1(CN(CC(CNC1)([N+](=O)[O-])[N+](=O)[O-])N=O)[N+](=O)[O-] | C6H9N7O9
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
product | 3,3,7,7-tetranitro-1,5-dinitrosoperhydro-1,5-diazocine | [N+](=O)([O-])C1(CN(CC(CN(C1)N=O)([N+](=O)[O-])[N+](=O)[O-])N=O)[N+](=O)[O-] | C6H8N8O10
